US08685969B2
7-(1-Hydroxyethyl)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
To a cloudy solution of 7-acetyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (45 mg, 0.092 mmol) in tetrahydrofuran (4 mL) and methanol (12 mL) at 0° C. was added sodium borohydride (17.46 mg, 0.462 mmol) in one portion. The mixture was stirred at room temperature for 20 min and then the reaction was quenched with ice cold water (15 mL). The resulting mixture was extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (25 mL) and dried over anhydrous MgSO4. The organic solution was concentrated under vacuum, and the residue was purified by reverse phase HPLC. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with dichloromethane (3×35 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (10.9 mg, 0.022 mmol, 23.5% yield) as a white solid. LCMS (M+H)+=490.1. 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for the major atropisomer) δ: 11.78 (s, 1H), 8.44 (s, 1H), 8.30 (s, 1H), 8.28 (dd, J1=8.0 Hz, J2=1.4 Hz, 1H), 8.25 (s, 1H), 8.24 (s, 1H), 7.30 (m, 1H), 7.12 (m, 1H), 5.25 (s, 1H), 4.85 (m, 1H), 1.82 (s, 3H),

reactant | 7-acetyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.092 mmol, 45 mg | C(C)(=O)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C29H21N5O3
reactant | sodium borohydride | 0.462 mmol, 17.46 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | methanol | 12 mL | CO | CH4O
product | 7-(1-Hydroxyethyl)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.022 mmol, 10.9 mg, 23.5% yield | OC(C)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C29H23N5O3
